datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C[NH+](C)Cc1cc(Cl)cc(C[NH+](C)C)c1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH+](C)Cc1cc(Cl)cc(C[NH+](C)C)c1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCOP(=O)(C[N:10]1CCOCC1)OCC.ON=C1C=CC(=NO)c2c1ccc[n+:21]2[H:20]>>CCOP(=O)(C[N+:10]1([H:20])CCOCC1)OCC.ON=C1C=CC(=NO)c2c1ccc[n:21]2 10=20;20,21=21",
"CC(C(O)c1ccccc1)[NH:10]C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C(O)c1ccccc1)[NH+:10](C)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)c1ccc([O-:10])c2ncccc12.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(=O)c1ccc([O:10][H:20])c2ncccc12.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC[N:10](CC)CCC(=O)Nc1c(C)cccc1C.O=[N+]([O-])[N:21](c1nnn[nH]1)[H:20]>>CC[N+:10](CC)(CCC(=O)Nc1c(C)cccc1C)[H:20].O=[N+]([O-])[N-:21]c1nnn[nH]1 10=20;20,21=21",
"C=CC(=O)[O-:10].Cc1cc(C(=O)[O:21][H:20])cs1>>C=CC(=O)[O:10][H:20].Cc1cc(C(=O)[O-:21])cs1 10=20;20,21=21",
"CN1C(=O)Nc2c(n(C)c[n+:21]2[H:20])C1=O.COC(=O)/C(=N/[O-:10])c1ccccc1>>CN1C(=O)Nc2c(n(C)c[n:21]2)C1=O.COC(=O)/C(=N/[O:10][H:20])c1ccccc1 10=20;20,21=21",
"[NH3+]CCCCCCNC(=S)[S-:10].c1ccc(-c2[nH]cc[n+:21]2[H:20])nc1>>[NH3+]CCCCCCNC(=S)[S:10][H:20].c1ccc(-c2[nH]cc[n:21]2)nc1 10=20;20,21=21",
"C[C@H]1[C@@H](O)CC[C@@H](CCCCCCCC(=O)[O-])[NH:10]1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>C[C@H]1[C@@H](O)CC[C@@H](CCCCCCCC(=O)[O-])[NH+:10]1[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC(C#N)C(=O)[O:21][H:20].C[C@@H]1[C@H](N)[C@H](C)[C@H]([NH3+])[C@H](C)[C@@H]1[NH2:10]>>CC(C#N)C(=O)[O-:21].C[C@@H]1[C@H](N)[C@H](C)[C@H]([NH3+])[C@H](C)[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"CC(=O)c1ccc([N+](=O)[O-])cc1C(=O)[O:21][H:20].Oc1ccc(C[NH2:10])cc1O>>CC(=O)c1ccc([N+](=O)[O-])cc1C(=O)[O-:21].Oc1ccc(C[NH2+:10][H:20])cc1O 10=20;20,21=21",
"C[N:10]1[C@@H]2C[C@H](OC(=O)C(CO)c3ccccc3)C[C@H]1[C@H]1O[C@H]12.Ic1cccc([NH2+:21][H:20])c1>>C[N+:10]1([H:20])[C@@H]2C[C@H](OC(=O)C(CO)c3ccccc3)C[C@H]1[C@H]1O[C@H]12.Ic1cccc([NH2:21])c1 10=20;20,21=21",
"COc1ccc(CC(C)[NH2:10])cc1.C[NH+](C)CCc1ccccc1[O:21][H:20]>>COc1ccc(CC(C)[NH2+:10][H:20])cc1.C[NH+](C)CCc1ccccc1[O-:21] 10=20;20,21=21",
"O=C(c1cncs1)[O:21][H:20].O=C1C(/C=C/c2ccccc2)=C([O-:10])C(=O)c2ccccc21>>O=C(c1cncs1)[O-:21].O=C1C(/C=C/c2ccccc2)=C([O:10][H:20])C(=O)c2ccccc21 10=20;20,21=21",
"CC1=C(CC(C)[NH:10]CC(O)c2ccc(F)cc2)CCC1(C)C.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC1=C(CC(C)[NH+:10](CC(O)c2ccc(F)cc2)[H:20])CCC1(C)C.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[N:10](C)CCCCCCNC(=O)/C=N/[O-].O=C(Cc1c[nH]c2ccccc12)[O:21][H:20]>>C[N+:10](C)(CCCCCCNC(=O)/C=N/[O-])[H:20].O=C(Cc1c[nH]c2ccccc12)[O-:21] 10=20;20,21=21",
"C[C@H]1[C@@H]([NH3+])[C@@H](C)[C@@H]([NH2+:21][H:20])[C@@H](C)[C@H]1[NH3+].[SH2+]c1ccc2c(ccc[n:10]2)c1>>C[C@H]1[C@@H]([NH3+])[C@@H](C)[C@@H]([NH2:21])[C@@H](C)[C@H]1[NH3+].[SH2+]c1ccc2c(ccc[n+:10]2[H:20])c1 10=20;20,21=21",
"CC(O)CC(=O)[O:21][H:20].CCc1cc(C)c[n:10]c1>>CC(O)CC(=O)[O-:21].CCc1cc(C)c[n+:10]([H:20])c1 10=20;20,21=21",
"CC[N:10](CC)CCNc1ccnc2ccccc12.CC[NH+](CC)CCOCC[N+:21](C)(CC)[H:20]>>CC[N+:10](CC)(CCNc1ccnc2ccccc12)[H:20].CC[NH+](CC)CCOCC[N:21](C)CC 10=20;20,21=21",
"C[NH+](C)Cc1cccc([O-:10])c1.Oc1ccccc1C[N+:21]1([H:20])CCOCC1>>C[NH+](C)Cc1cccc([O:10][H:20])c1.Oc1ccccc1C[N:21]1CCOCC1 10=20;20,21=21",
"C[Si](C)(C)CC[NH2+:21][H:20].NC(=O)[N-:10]c1ccc([N+](=O)[O-])cc1>>C[Si](C)(C)CC[NH2:21].NC(=O)[N:10](c1ccc([N+](=O)[O-])cc1)[H:20] 10=20;20,21=21",
"CCC(C)(C)[NH:10]C(C)(C)CC.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCC(C)(C)[NH+:10](C(C)(C)CC)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)c1ccc([S-:10])cc1.c1ccc2c(c1)C[NH2+]CCC[NH+:21]([H:20])Cc1ccccc1OCCO2>>CC(=O)c1ccc([S:10][H:20])cc1.c1ccc2c(c1)C[NH2+]CCC[NH:21]Cc1ccccc1OCCO2 10=20;20,21=21",
"C#CCC(=O)[O-:10].C#CCCC[N+:21](C)(C)[H:20]>>C#CCC(=O)[O:10][H:20].C#CCCC[N:21](C)C 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1ncc(CC[NH2:10])[nH]1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1ncc(CC[NH2+:10][H:20])[nH]1 10=20;20,21=21",
"C[C@@H]([C@H](O)c1ccccc1)[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>C[C@@H]([C@H](O)c1ccccc1)[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CCCCOc1ccc([O-:10])cc1.O=C1O[C@@H]([C@@H](O)CO)C([O-])=C1[O:21][H:20]>>CCCCOc1ccc([O:10][H:20])cc1.O=C1O[C@@H]([C@@H](O)CO)C([O-])=C1[O-:21] 10=20;20,21=21",
"Fc1ccc([O:21][H:20])c(C[NH+]2CCCCC2)c1.O=C(O)c1ccc(O)c2c1ccc[n:10]2>>Fc1ccc([O-:21])c(C[NH+]2CCCCC2)c1.O=C(O)c1ccc(O)c2c1ccc[n+:10]2[H:20] 10=20;20,21=21",
"C=C[C@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](O)c1cc[n+:21]([H:20])c2ccccc12.O=C(c1c(Br)cccc1[N+](=O)[O-])[O-:10]>>C=C[C@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](O)c1cc[n:21]c2ccccc12.O=C(c1c(Br)cccc1[N+](=O)[O-])[O:10][H:20] 10=20;20,21=21",
"CC(C)[N-:10]C(C)C.N#Cc1c[n+:21]([H:20])cc2ccccc12>>CC(C)[N:10](C(C)C)[H:20].N#Cc1c[n:21]cc2ccccc12 10=20;20,21=21",
